US07384967B2
2-(2-{3-[2-(2-Methoxy-benzoyl)-5-methyl-phenyl]-ureido}-thiazol-4-yl)-N-methyl-acetamide (164 mg, 75%) was prepared from (2-{3-[2-(2-methoxy-benzoyl)-5-methyl-phenyl]-ureido}-thiazol-4-yl)-acetic acid (213 mg, 0.5 mmol) and 1 N solution of methylamine in THF (0.5 mL, 0.5 mmol) following the general procedure K.

reactant | (2-{3-[2-(2-methoxy-benzoyl)-5-methyl-phenyl]-ureido}-thiazol-4-yl)-acetic acid | 0.5 mmol, 213 mg | COC1=C(C(=O)C2=C(C=C(C=C2)C)NC(NC=2SC=C(N2)CC(=O)O)=O)C=CC=C1 | C21H19N3O5S
reactant | methylamine | CN | CH5N
reactant | THF | 0.5 mmol, 0.5 mL | C1CCOC1 | C4H8O
product | 2-(2-{3-[2-(2-Methoxy-benzoyl)-5-methyl-phenyl]-ureido}-thiazol-4-yl)-N-methyl-acetamide | 164 mg, 75% | COC1=C(C(=O)C2=C(C=C(C=C2)C)NC(NC=2SC=C(N2)CC(=O)NC)=O)C=CC=C1 | C22H22N4O4S
